US04154744
To a three-necked flask equipped with a condenser and a stirrer were added 5 g (0.014 mole) of a commercially available D-(+)-saccharose and two kinds of surface active agent, i.e., 47.1 mg (0.00014 mole) of cetyltrimethylammonium chloride and 51.3 mg (0.00014 mole) of sodium laurylbenzenesulfonate. Then, 5 ml of water and 30 ml of toluene were added thereto and the mixture was stirred. Thereafter, a molar excess of hydrogen chloride was passed through the mixture at room temperature for about 30 minutes with thorough stirring. After the reaction was continued at room temperature for a further 3 hours, the upper toluene layer was separated from the lower aqueous layer. Thirty milli-liters of toluene and the above two surface active agents of the same amounts as above were then freshly added to the aqueous layer. After the reaction was carried out at room temperature for 3 hours, the upper toluene layer was again separated. This toluene extraction operation was repeated three times in total. All the toluene layers were combined and filtered through Celite. The filtrate was neutralized with an aqueous sodium hydrogen carbonate solution, dried over anhydrous sodium sulfate and concentrated. Thus, about 2.6 g of 5 -chloromethylfurfural was obtained as a crude product.

reactant | D-(+)-saccharose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | sodium laurylbenzenesulfonate | 0.00014 mole, 51.3 mg | C(CCCCCCCCCCC)OS(=O)(=O)C1=CC=CC=C1.[Na]
reactant | water | 5 ml | O | H2O
reactant | hydrogen chloride | Cl | ClH
catalyst | cetyltrimethylammonium chloride | 0.00014 mole, 47.1 mg | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 5 -chloromethylfurfural | about 2.6 g | ClCC1=CC=C(C=O)O1 | C6H5ClO2
